datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CN(C)CCOCC[N+:21](C)(C)[H:20].O=C(C[N:10]1CCCCC1)NCc1ccccc1>>CN(C)CCOCC[N:21](C)C.O=C(C[N+:10]1([H:20])CCCCC1)NCc1ccccc1 10=20;20,21=21",
"CN/C(CCNS(=O)(=O)c1ccc(C)cc1)=[NH+:21]\[H:20].Nc1ccc2c[n:10]ccc2c1>>CNC(CCNS(=O)(=O)c1ccc(C)cc1)=[NH:21].Nc1ccc2c[n+:10]([H:20])ccc2c1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1coc(C[NH2+]CC[NH:10]Cc2ccco2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1coc(C[NH2+]CC[NH+:10](Cc2ccco2)[H:20])c1 10=20;20,21=21",
"C#CC(C)[NH:10]c1ccccc1.O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O:21][H:20]>>C#CC(C)[NH+:10](c1ccccc1)[H:20].O=C(O)CC(=O)CC(=O)/C=C/C(=O)[O-:21] 10=20;20,21=21",
"O=C(c1cc[nH]n1)[O:21][H:20].Oc1onc2c1CC[N:10](Cc1ccccc1)CC2>>O=C(c1cc[nH]n1)[O-:21].Oc1onc2c1CC[N+:10](Cc1ccccc1)([H:20])CC2 10=20;20,21=21",
"CCCCCC(C)[NH:10]C.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCC(C)[NH+:10](C)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C=C(CCCC)C(=O)[O-:10].Cc1ccc2c(c1)N1CC[N+:21]2([H:20])CC1>>C=C(CCCC)C(=O)[O:10][H:20].Cc1ccc2c(c1)N1CC[N:21]2CC1 10=20;20,21=21",
"CCC[NH:10]CCN.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCC[NH+:10](CCN)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(O)C[NH:10]C(C)(C)C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>CC(O)C[NH+:10](C(C)(C)C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=C(C1c2ccccc2Oc2ccccc21)[O-:10].Oc1c([NH2+:21][H:20])ccc2c1Cc1ccccc1-2>>O=C(C1c2ccccc2Oc2ccccc21)[O:10][H:20].Oc1c([NH2:21])ccc2c1Cc1ccccc1-2 10=20;20,21=21",
"COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O-:10])cc3[C@@H](C2)N1C.S=C(c1ccc(Cl)cc1)[N:21](c1ccccc1)[H:20]>>COc1cc2c(cc1OC)[C@@H]1Cc3cc(OC)c([O:10][H:20])cc3[C@@H](C2)N1C.S=C(c1ccc(Cl)cc1)[N-:21]c1ccccc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(Cl)C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(Cl)C[NH2+:10][H:20] 10=20;20,21=21",
"CC[Si](C)(C)CCCC(=O)[O:21][H:20].NC(=O)CC(=O)c1cccc[n:10]1>>CC[Si](C)(C)CCCC(=O)[O-:21].NC(=O)CC(=O)c1cccc[n+:10]1[H:20] 10=20;20,21=21",
"C#CC#CC#CCC(O)CCC(=O)[O:21][H:20].COc1ccc(CC(C)[NH:10]C)cc1OC>>C#CC#CC#CCC(O)CCC(=O)[O-:21].COc1ccc(CC(C)[NH+:10](C)[H:20])cc1OC 10=20;20,21=21",
"COc1ccc[n+:21]([H:20])c1.NC1=[NH+]C(CC(=O)O)C(=O)N1CCCC([NH3+])C(=O)[O-:10]>>COc1ccc[n:21]c1.NC1=[NH+]C(CC(=O)O)C(=O)N1CCCC([NH3+])C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C)cc([O-:10])c1.Cc1cc([N+](=O)[O-])ccc1[NH2+:21][H:20]>>Cc1cc(C)cc([O:10][H:20])c1.Cc1cc([N+](=O)[O-])ccc1[NH2:21] 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n-:10]1.O=[N+]([O-])c1ccc(Cl)cc1C[NH2+:21][H:20]>>COc1cc(S(C)=O)ccc1-c1nc2[nH]ncc2[n:10]1[H:20].O=[N+]([O-])c1ccc(Cl)cc1C[NH2:21] 10=20;20,21=21",
"CC1=C(O)/C(=[O+:21]/[H:20])N(c2ccccc2)N1C.CC[NH+](CC)CC(=O)[O-:10]>>CC1=C(O)C(=[O:21])N(c2ccccc2)N1C.CC[NH+](CC)CC(=O)[O:10][H:20] 10=20;20,21=21",
"CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N+:21]2[H:20].NCC(O)C[NH2:10]>>CC1C(=NO)C[C@H]2[C@@]3(C)CC[C@H]4[C@@H](OC(=O)[C@@H]4C)[C@]13OC(c1ccccc1)=[N:21]2.NCC(O)C[NH2+:10][H:20] 10=20;20,21=21",
"CC(/C=C(\C)Nc1ccccc1)=[N+:21](c1ccccc1)[H:20].CCOC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O-:10]>>CC(/C=C(\C)Nc1ccccc1)=[N:21]c1ccccc1.CCOC(=O)[C@H]1CC(=O)N[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1c([N+](=O)[O-])cc(Cl)c2nnn([O:21][H:20])c12.O=[N+]([O-])/C(=N/[O-:10])c1ccc(Cl)cc1>>Cc1c([N+](=O)[O-])cc(Cl)c2nnn([O-:21])c12.O=[N+]([O-])/C(=N/[O:10][H:20])c1ccc(Cl)cc1 10=20;20,21=21",
"CCCCc1ccc(C(=O)[O-])[n+:21]([H:20])c1.O=C([O-])C1=CC([O-:10])=C(O)C(C(=O)[O-])=[O+]1>>CCCCc1ccc(C(=O)[O-])[n:21]c1.O=C([O-])C1=CC([O:10][H:20])=C(O)C(C(=O)[O-])=[O+]1 10=20;20,21=21",
"C1CC[NH+:21]([H:20])C1.CCSCC[NH2:10]>>C1CC[NH:21]C1.CCSCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)C(C[N+:21]1([H:20])CCOCC1)c1ccccc1.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O-:10]>>CC(=O)C(C[N:21]1CCOCC1)c1ccccc1.Nc1nccc2c1[nH+]cn2CCOCP(=O)(O)[O:10][H:20] 10=20;20,21=21",
"CCCC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])=C1>>CCCC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)=C1 10=20;20,21=21",
"Nc1cc[n:10]c(-c2cccc(Cl)n2)c1.O=C1[N-]C(=S)[N:21]([H:20])C(=O)C1C1C=CCCC1>>Nc1cc[n+:10]([H:20])c(-c2cccc(Cl)n2)c1.O=C1[N-]C(=S)[N-:21]C(=O)C1C1C=CCCC1 10=20;20,21=21",
"Fc1ccc([O:21][H:20])cc1.O=[N+]([O-])c1ccc(S(=O)(=O)[NH-:10])cc1>>Fc1ccc([O-:21])cc1.O=[N+]([O-])c1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"CCC(C)[NH:10]CC(C)C.Cc1cc([O:21][H:20])ccc1O>>CCC(C)[NH+:10](CC(C)C)[H:20].Cc1cc([O-:21])ccc1O 10=20;20,21=21",
"CCSC(C)[O-:10].C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>CCSC(C)[O:10][H:20].C[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"O=C/C(O)=C/[O-:10].OCC1=CC[N+:21]2([H:20])CC[C@@H](O)[C@@H]12>>O=C/C(O)=C/[O:10][H:20].OCC1=CC[N:21]2CC[C@@H](O)[C@@H]12 10=20;20,21=21",
"C1CC[NH:10]CC1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CC[NH+:10]([H:20])CC1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
